US06673794B2
21.6 g potassium tert-butylate and 65 g 4-chlorobenzyltriphenylphosphonium chloride were suspended in 800 ml analytical grade toluene under a nitrogen atmosphere at room temperature and the suspension was then stirred at 70° C. for one hour. 11.5 g 4-dimethylaminomethyl-3-(3-methoxy-phenyl)-cyclohex-2-enone in 100 ml analytical grade toluene were added at this temperature and the mixture was stirred at 70° C. for 3 days. The mixture was quenched with 500 ml water. The phases were separated and the aqueous phase was washed 3 times with 200 ml ethyl acetate each time. The combined organic phases were dried over magnesium sulfate and then freed from the solvent in vacuo. The solid which had precipitated out was filtered off and washed with diiso-ether. The combined organic phases were freed from the solvent in vacuo. The residue was purified by column chromatography on silica gel with ethyl acetate/methanol=9/1. 5.2 g E-[4-(4-chloro-benzylidene)-2-(3-methoxy-phenyl)-cyclohex-2-enylmethyl]-dimethyl-amine base were obtained as the first product fraction. To prepare the hydrochloride, the base was dissolved in 50 ml acetone, and an equimolar amount of trimethylchlorosilane and water was added. 4.7 g (27.6% of theory) of the title compound 46 were obtained in this way in the form of white crystals. 3.5 g Z-[4-(4-chloro-benzylidene)-2-(3-methoxy-phenyl)-cyclohex-2-enylmethyl]-dimethyl-amine base were obtained as the second product fraction. To liberate the hydrochloride, the base was dissolved in 50 ml acetone, and an equimolar amount of trimethylchlorosilane and water was added. 3 g (17.6% of theory) of the title compound 41 were obtained in this way in the form of white crystals.

reactant | potassium tert-butylate | 21.6 g | CC(C)(C)[O-].[K+]
reactant | 4-chlorobenzyltriphenylphosphonium chloride | 65 g | [Cl-].ClC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-dimethylaminomethyl-3-(3-methoxy-phenyl)-cyclohex-2-enone | 11.5 g | CN(C)CC1C(=CC(CC1)=O)C1=CC(=CC=C1)OC | C16H21NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | E-[4-(4-chloro-benzylidene)-2-(3-methoxy-phenyl)-cyclohex-2-enylmethyl]-dimethyl-amine | 5.2 g | ClC1=CC=C(\C=C/2\C=C(C(CC2)CN(C)C)C2=CC(=CC=C2)OC)C=C1 | C23H26ClNO
